US09228150B2
Preparation of Zinc Ditridecyldithiocarbamate (Propylene Based) (FC-577-242)
To a 250 mL round bottomed flask was placed 76.5 g of ditridecylamine and 8.10 g of zinc oxide. Carbon disulfide, 16.0 g, was then added dropwise, and the mixture was stirred for 30 minutes. The flask was then stirred and heated for 2 hours at 70° C., and then stirred for an addition 2 hours at 90° C. A vacuum was then applied to remove water of reaction and the temperature was increased to 130° C., and the reaction was maintained in this state for 3 hours. The pale yellow material was then filtered through Celite at 120° C., to give a pale yellow liquid with a Zn content of 6.0%.

reactant | ditridecylamine | 76.5 g | C(CCCCCCCCCCCC)NCCCCCCCCCCCCC | C26H55N
reactant | zinc oxide | 8.10 g | [O-2].[Zn+2]
reactant | Carbon disulfide | C(=S)=S | CS2
product | Zinc Ditridecyldithiocarbamate | C(CCCCCCCCCCCC)N(C([S-])=S)CCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCC)N(C([S-])=S)CCCCCCCCCCCCC | InChI=1S/2C27H55NS2.Zn/c2*1-3-5-7-9-11-13-15-17-19-21-23-25-28(27(29)30)26-24-22-20-18-16-14-12-10-8-6-4-2;/h2*3-26H2,1-2H3,(H,29,30);/q;;+2/p-2
